* NGSPICE file created from inv.ext - technology: ihp-sg13g2

.subckt inv VDD VOUT VIN VSS
X0 VOUT.t0 VIN.t0 VSS.t1 VSS.t0 sg13_lv_nmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
X1 VOUT.t1 VIN.t0 VDD.t1 VDD.t0 sg13_lv_pmos ad=0.1005p pd=1.34u as=0.1005p ps=1.34u w=0.15u l=0.13u
R0 VIN VIN.t0 15.0555
R1 VSS.n0 VSS.t0 1065.67
R2 VSS.n0 VSS.t1 17.3474
R3 VSS VSS.n0 0.139157
R4 VOUT.n0 VOUT.t1 17.8118
R5 VOUT.n0 VOUT.t0 17.0005
R6 VOUT VOUT.n0 0.089875
R7 VDD.n0 VDD.t1 17.3474
R8 VDD.n0 VDD.t0 11.3826
R9 VDD VDD.n0 0.139157
C0 VIN VDD 0.05267f
C1 VIN VOUT 0.03641f
C2 VDD VOUT 0.04921f
C3 VOUT VSS 0.12338f
C4 VIN VSS 0.20205f
C5 VDD VSS 0.14299f
.ends

